US04028089
9.15 g. (0.05 M) of 2-benzoxazolinylidene-malononitrile and 16.0 g. (0.4 M) of sodium hydroxide are dissolved in 500 ml. of water. The solution is brought to 5° C. while stirring and, over a period of 1 hour, 25.2 g. (0.2 M) of dimethyl sulfate are added dropwise. The resulting crystals are filtered off under suction, washed with water and dried to obtain 3-methyl-benzoxazolinylidene-malononitrile of melting point 198°-200° C.

reactant | 2-benzoxazolinylidene-malononitrile | 0.05 M | O1C(NC2=C1C=CC=C2)=C(C#N)C#N | C10H5N3O
reactant | sodium hydroxide | 0.4 M | [OH-].[Na+]
reactant | dimethyl sulfate | 0.2 M | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | O | H2O
product | 3-methyl-benzoxazolinylidene-malononitrile | CN1C(OC2=C1C=CC=C2)=C(C#N)C#N | C11H7N3O
